US07399759B2
2-(2-Pyridylmethyl)-1H-isoindole-1,3(2H)-dione
2-Aminomethylpyridine (4.0 g, 37 mmol) and phthalic anhydride (5.5 g, 37 mmol) were dissolved in toluene (100 ml), and triethylamine (3.7 g, 36 mmol) was added thereto. The mixture was refluxed for 3 hrs. The solvent was evaporated, and the residue was recrystallized from hexane-ethanol to give the titled compound (7.6 g, 86%).

reactant | 2-Aminomethylpyridine | 37 mmol, 4.0 g | NCC1=NC=CC=C1 | C6H8N2
reactant | phthalic anhydride | 37 mmol, 5.5 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | triethylamine | 36 mmol, 3.7 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(2-Pyridylmethyl)-1H-isoindole-1,3(2H)-dione | 7.6 g, 86% | N1=C(C=CC=C1)CN1C(C2=CC=CC=C2C1=O)=O | C14H10N2O2
